US04226771
8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine
A solution of 50 mg of 8-chloro-6-(2-fluorophenyl)-3a,4-dihydro-1H-imidazo[1,5-a][1,4]benzodiazepine 2-oxide in 3 ml of methanol containing 25 mg of potassium t-butoxide was heated to reflux for 10 min. The mixture was evaporated partially and the residue was partitioned between methylene chloride and sodium bicarbonate solution. The organic phase was dried and evaporated. Crystallization of the residue from ether yielded product with mp 148°-151° C.

reactant | 8-chloro-6-(2-fluorophenyl)-3a,4-dihydro-1H-imidazo[1,5-a][1,4]benzodiazepine 2-oxide | 50 mg | ClC=1C=CC2=C(C(=NCC3N2C[N+](=C3)[O-])C3=C(C=CC=C3)F)C1 | C17H13ClFN3O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | methanol | 3 ml, 25 mg | CO | CH4O
product | 8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NC3)C3=C(C=CC=C3)F)C1 | C17H11ClFN3
